US04582833
4-(5-Amino-4H-1,2,4-triazol-3-yl)-1-piperazinecarboxaldehyde
A mixture of 11.4 g (0.1 mole) of piperazinecarboxaldehyde, 14.6 g (0.1 mole) of dimethyl cyanodithioiminocarbonate and 150 ml of acetonitrile was heated at reflux for 18 hours, the evolved gas being led into a sodium hypochlorite trap. The reaction mixture was cooled and filtered to remove a small amount of colorless solid. The filter was washed with acetonitrile, the wash being added to the filtrate. Then 5.5 ml (0.11 mole) of hydrazine hydrate was added to the filtrate and the mixture was refluxed for 4 hours, again with a sodium hypochlorite trap installed. Crystals appeared during reflux. The mixture was cooled and filtered. The material was washed with acetonitrile and gave 17.8 g of the product of the Example, mp 150°-151° C. (dec.).

reactant | piperazinecarboxaldehyde | 0.1 mole, 11.4 g | N1(CCNCC1)C=O | C5H10N2O
reactant | dimethyl cyanodithioiminocarbonate | 0.1 mole, 14.6 g | CSC(=NC#N)SC | C4H6N2S2
reactant | hydrazine hydrate | 0.11 mole, 5.5 ml | O.NN
reactant | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 4-(5-Amino-4H-1,2,4-triazol-3-yl)-1-piperazinecarboxaldehyde | 17.8 g | NC=1NC(=NN1)N1CCN(CC1)C=O | C7H12N6O
